US09371320B2
B) 4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzoic acid
To a solution of methyl 4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzoate (2.70 g) in a mixed solvent of methanol (20 mL) THF (20 mL) and water (10 mL) was added 8N aqueous sodium hydroxide solution (4.27 mL), and the mixture was stirred at 50° C. for 4 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The aqueous layer was neutralized with 1N hydrochloric acid at 0° C., and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (2.59 g).

reactant | methyl 4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzoate | 2.70 g | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C(=O)OC)C=C2 | C21H15F2N3O3
reactant | methanol | 20 mL | CO | CH4O
reactant | sodium hydroxide | 8N, 4.27 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | 4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzoic acid | 2.59 g | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C(=O)O)C=C2 | C20H13F2N3O3
